US07799915B2
Preparation of 4-[4-(5-Pyridin-2-ylethynyl-thiophen-2-yl)-pyrimidin-2-ylamino]-benzenesulfonamide (Exemplary Compound 35) See FIG. 1
A 10 mL glass microwave reaction vessel with stir bar contained palladium acetate (5 mg, 22 μmol), tri-o-tolylphosphine (13 mg, 44 μmol), and 4-[4-(5-bromo-thiophen-2-yl)-pyrimidin-2-ylamino]-benzenesulfonamide (80 mg, 200 μmol). Anhydrous dimethylformamide (DMF) (3.5 mL), 2-ethynylpyridine (46 mg, 450 μmol), and triethylamine (50 μL) is added to the reaction vessel. The reaction vessel is sealed and heated to 180° C. for 660 seconds in a microwave reactor (Emrys Microwave Reactor, personal Chemistry AB, Uppsala, Sweden). The reaction is filtered through celite, concentrated, redissolved in dimethylsulfoxide (DMSO), and purified by reverse phase (RP) HPLC to obtain 10 mg of the title compound. LC/MS data (Condition A; molecular ion and retention time): m/z 434 (M+H); 2.52 min.

reactant | tri-o-tolylphosphine | 44 μmol, 13 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4-[4-(5-bromo-thiophen-2-yl)-pyrimidin-2-ylamino]-benzenesulfonamide | 200 μmol, 80 mg | BrC1=CC=C(S1)C1=NC(=NC=C1)NC1=CC=C(C=C1)S(=O)(=O)N | C14H11BrN4O2S2
reactant | dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
reactant | 2-ethynylpyridine | 450 μmol, 46 mg | C(#C)C1=NC=CC=C1 | C7H5N
catalyst | palladium acetate | 22 μmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 50 μL | C(C)N(CC)CC | C6H15N
product | 4-[4-(5-Pyridin-2-ylethynyl-thiophen-2-yl)-pyrimidin-2-ylamino]-benzenesulfonamide | 10 mg | N1=C(C=CC=C1)C#CC1=CC=C(S1)C1=NC(=NC=C1)NC1=CC=C(C=C1)S(=O)(=O)N | C21H15N5O2S2
